US04329507
In 250 ml. of dimethyl sulfoxide were dissolved 7.0 g of α-(3-phenoxyphenyl)ethyl alcohol and 0.5 g of m-dinitrobenzene as a polymerization inhibitor. The solution was subjected to reaction at 160° C. for 10 hours. After cooling, the reaction mixture was incorporated with 250 ml. of dichloromethane, and washed with 600 ml. of water. The resultant dichloromethane layer was separated after removal of the dimethyl sulfoxide, and dried with magnesium sulfate. Then the dichloromethane in the layer was distilled off under reduced pressure, and the resultant residue was subjected to column chromatography. From hexane eluate was obtained 4.75 g of 3-phenoxystyrene.

reactant | α-(3-phenoxyphenyl)ethyl alcohol | 7.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C)O | C14H14O2
reactant | m-dinitrobenzene | 0.5 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3-phenoxystyrene | 4.75 g | O(C1=CC=CC=C1)C=1C=C(C=C)C=CC1 | C14H12O
